US06559166B1
e) 4-(4-Bromophenylsulphonyl)-1-[2-(2,4-difluorophenyl)ethyl]piperidine
A mixture of 4-(4-bromophenylsulphonyl)piperidine (7.6 g, 0.025 mol), 2,4-difluorophenethyl bromide (8.3 g, 0.38 mol), potassium carbonate (7.5 g, 0.054 mol) and sodium iodide (5.6 g, 0.037 mol) in CH3CN (70 ml) was heated at reflux under nitrogen for 18 h. The reaction mixture was then concentrated and partitioned between water and EtOAc. The organic phase was washed with brine, dried (Na2SO4) and concentrated. Trituration with hexane gave 6.5 g of product as a colourless solid. δH (360 MHz, CDCl3) 1.55-1.75 (2H, m), 1.95-2.05 (4H, m), 2.45-2.55 (2H, m), 2.70-2.75 (2H, m), 2.85-2.95 (1H, m), 3.05-3.10 (2H, m), 6.70-6.85 (2H, m), 7.10-7.15 (1H, m), 7.72 (4H, s).

reactant | 4-(4-bromophenylsulphonyl)piperidine | 0.025 mol, 7.6 g | BrC1=CC=C(C=C1)S(=O)(=O)C1CCNCC1 | C11H14BrNO2S
reactant | 2,4-difluorophenethyl bromide | 0.38 mol, 8.3 g | FC1=C(CCBr)C=CC(=C1)F | C8H7BrF2
reactant | potassium carbonate | 0.054 mol, 7.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.037 mol, 5.6 g | [I-].[Na+]
solvent | CH3CN | 70 ml | CC#N | C2H3N
product | 4-(4-Bromophenylsulphonyl)-1-[2-(2,4-difluorophenyl)ethyl]piperidine | 6.5 g | BrC1=CC=C(C=C1)S(=O)(=O)C1CCN(CC1)CCC1=C(C=C(C=C1)F)F | C19H20BrF2NO2S
